US08076488B2
Preparation of 4-[3-fluoro-4-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}amino)phenoxy]-N-methylpyridine-2-carboxamide
To a solution of 1,1′-carbonyldiimidazole (62 mg, 0.38 mmol) in benzene (2 mL) and CH2Cl2 (1 mL) was added 4-(4-amino-3-fluorophenoxy)-N-methylpyridine-2-carboxamide (100 mg, 0.38 mmol). The resulting solution was stirred at room temperature for 16 h, then was treated with 1-methyl-5-aminoindazole (56 mg, 0.38 mmol). The reaction continued to stir at room temperature for 18 h. The mixture was concentrated under reduced pressure and the residue was triturated with Et2O. The solid was collected by filtration, and then purified by preparative HPLC to afford 44 mg (27%) of the title product. 1H-NMR (DMSO-d6) δ 2.78 (d, J=4.8, 3H), 4.01 (s, 3H), 7.02-7.07 (m, 1H), 7.14-7.18 (m, 1H), 7.28-7.36 (m, 2H), 7.39 (d, J=2.9, 1H), 7.52-7.59 (m, 1H), 7.89-7.96 (m, 2H), 8.23 (t, J=9.0, 1H), 8.49 (d, J=4.9, 1H), 8.57-8.63 (m, 1H), 8.71-8.81 (m, 1H), 9.06 (s, 1H); MS LC-MS [M+H]+=435.1; mp 231-234° C.

reactant | 1,1′-carbonyldiimidazole | 0.38 mmol, 62 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-amino-3-fluorophenoxy)-N-methylpyridine-2-carboxamide | 0.38 mmol, 100 mg | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)F | C13H12FN3O2
reactant | 1-methyl-5-aminoindazole | 0.38 mmol, 56 mg | CN1N=CC2=CC(=CC=C12)N | C8H9N3
solvent | benzene | 2 mL | C1=CC=CC=C1 | C6H6
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[3-fluoro-4-({[(1-methyl-1H-indazol-5-yl)amino]carbonyl}amino)phenoxy]-N-methylpyridine-2-carboxamide | 44 mg, 27% | FC=1C=C(OC2=CC(=NC=C2)C(=O)NC)C=CC1NC(=O)NC=1C=C2C=NN(C2=CC1)C | C22H19FN6O3
